US05098462
A solution of 3-fluorophenyl isocyanate (5.0 g, 36.0 mmol) in 20 ml of toluene is added to hydrazine hydrate (2.1 g, 42.0 mmol) in 70 ml of dioxane, maintaining the temperature of the reaction at less than 12°. After 2 hours, the reaction is filtered and the solvent is removed from the filtrate by rotoevaporation to give the white solid, 4-(3-fluorophenyl)semicarbazide.

reactant | 3-fluorophenyl isocyanate | 36.0 mmol, 5.0 g | FC=1C=C(C=CC1)N=C=O | C7H4FNO
reactant | hydrazine hydrate | 42.0 mmol, 2.1 g | O.NN
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | 70 ml | O1CCOCC1 | C4H8O2
product | 4-(3-fluorophenyl)semicarbazide | FC=1C=C(C=CC1)NC(NN)=O | C7H8FN3O
